US07189741B2
C. 5-[4-(1-furan-3-ylmethyl-1H-indol-3-yl)-piperidin-1-ylmethyl]-2-methoxy-benzoic acid
This compound was prepared following the procedure described in example 13 (part D) starting with 1.9 g (6.5 mmol) of 1-furan-3-ylmethyl-3-piperidin-4-yl-1H-indole and 1.9 g (7.1 mmol) 5-bromomethyl-2-methoxy-benzoic acid ethyl ester. After standard work-up, 1.2 g (42% of yield) of the expected acid were obtained.

reactant | 1-furan-3-ylmethyl-3-piperidin-4-yl-1H-indole | 6.5 mmol, 1.9 g | O1C=C(C=C1)CN1C=C(C2=CC=CC=C12)C1CCNCC1 | C18H20N2O
reactant | 5-bromomethyl-2-methoxy-benzoic acid ethyl ester | 7.1 mmol, 1.9 g | C(C)OC(C1=C(C=CC(=C1)CBr)OC)=O | C11H13BrO3
product | 5-[4-(1-furan-3-ylmethyl-1H-indol-3-yl)-piperidin-1-ylmethyl]-2-methoxy-benzoic acid | O1C=C(C=C1)CN1C=C(C2=CC=CC=C12)C1CCN(CC1)CC=1C=CC(=C(C(=O)O)C1)OC | C27H28N2O4
